US05185102
The procedure used to prepare 1-vinylpyrene was similar to that of K. Tanikawa, T. Ishizuka, K. Suzuki, S. Kusabayashi, and H. Mikawa, Bull. Chem. Soc. Japan, 41, 2719-2722, (1968) Under an argon atmosphere, methyltriphenylphosphonium bromide (0.16 mole) was mixed with butyllithium (0.16 mole of 2.0 M butyllithium in pentane) in dry ether (660 ml.). After the ylid color was obtained (4-8 hr.), pyrene-1-carboxaldehyde (0.14 mole) in dry tetrahydrofuran (500 ml.) was added dropwise. The mixture was stirred overnight under an argon atmosphere. Ether was removed by evaporation under reduced pressure, and the remaining tetrahydrofuran solution was boiled under reflux for 1 hour. After evaporation to dryness under reduced pressure, the residue was dissolved in toluene and the resulting solution was washed with 30% aqueous sodium sulfite solution and water. Toluene was evaporated under reduced pressure to precipitate the crude product, which, after dissolving in hot ethanol and treatment with charcoal, allowed 1-vinylpyrene to crystallize as a yellow powder (53% yield), m. p. 88°-89° C. (lit 88°-89° C.). The structure was confirmed by proton NMR.

reactant | 1-vinylpyrene | C(=C)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C18H12
reactant | butyllithium | 0.16 mole, 2.0 M | C(CCC)[Li]
reactant | ether | 660 ml | CCOCC | C4H10O
catalyst | methyltriphenylphosphonium bromide | 0.16 mole | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | pyrene-1-carboxaldehyde | 0.14 mole | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C=O | C17H10O
